US04228168
6.6 g of glutaric acid were added to 8.70 g of N-methyl-tryptamine (i.e., 3-(2-methylaminoethyl)-indole), and the mixture was heated at 150° C. under reduced pressure for 2 hours. After the reaction was completed, the product was recrystallized from a mixture of ethyl acetate and n-hexane. 10.8 g of N-methyl-N-(4-carboxybutyryl)-tryptamine (i.e., 3-[2-(N-methyl-4-carboxybutanamido)ethyl]-indole) were thereby obtained. M.p. 125°-126° C. Yield: 75.0%

reactant | glutaric acid | 6.6 g | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | N-methyl-tryptamine | 8.70 g | CNCCC1=CNC2=CC=CC=C12 | C11H14N2
product | N-methyl-N-(4-carboxybutyryl)-tryptamine | 10.8 g, Yield: 75.0% | CN(CCC1=CNC2=CC=CC=C12)C(CCCC(=O)O)=O | C16H20N2O3
